US07807676B2
To a mixture of methyl 2-(4-methoxy-7-(3-pivalamido-1H-1,2,4-triazol-1-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetate (40 mg, 0.100 mmol) in water (1 mL) and MeOH (1 mL) was added K2CO3 (83 mg, 0.599 mmol) at room temperature. The reaction mixture was stirred overnight at room temperature. MeOH was removed under reduced pressure. The water layer was acidified to PH=5-6 using 1N HCl and concentrated under reduced pressure. The resulting residue was washed with water, filtered and dried to give 2-(4-methoxy-7-(3-pivalamido-1H-1,2,4-triazol-1-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetic acid (30 mg, 78%) as white solid. LCMS: m/e 387.18 (M+H)+, ret time 2.46 min (method 4).

reactant | methyl 2-(4-methoxy-7-(3-pivalamido-1H-1,2,4-triazol-1-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetate | 0.100 mmol, 40 mg | COC1=C2C(=C(N=C1)N1N=C(N=C1)NC(C(C)(C)C)=O)NC=C2C(C(=O)OC)=O | C18H20N6O5
reactant | K2CO3 | 0.599 mmol, 83 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | water | 1 mL | O | H2O
solvent | MeOH | 1 mL | CO | CH4O
product | 2-(4-methoxy-7-(3-pivalamido-1H-1,2,4-triazol-1-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetic acid | 30 mg, 78% | COC1=C2C(=C(N=C1)N1N=C(N=C1)NC(C(C)(C)C)=O)NC=C2C(C(=O)O)=O | C17H18N6O5
